US07700786B2
Potassium carbonate (0.46 g, 3.3 mmol) and ethyl isocyanate (0.21 g, 3.0 mmol) were added to a solution of 3-(2,6-dichloro-4-trifluoromethylphenyloxy)-5-ethylpyrazole (0.98 g, 3.0 mmol) in ethyl acetate (10 ml), and the mixture was stirred at room temperature for 6 hours. After completion of the reaction, the reaction mixture was poured into 2N hydrochloric acid and extracted with ethyl acetate (10 ml×3). An organic layer was washed with water, dried over anhydrous magnesium sulfate and filtered to remove a desiccant, and the solvent was distilled off from the filtrate under reduced pressure. The resultant crude product was purified with a silica gel column (ethyl acetate/hexane=1/10), to give a white solid of N-ethyl-3-(2,6-dichloro-4-trifluoromethylphenyloxy)-5-ethylpyrazole-1-carboxamide (0.79 g, yield: 66.5%). mp: 86-89° C.; 1H-NMR (CDCl3, TMS, ppm): δ 1.19 (t, J=7.3 Hz, 3H), 1.27 (t, J=7.5 Hz, 3H), 3.06 (q, J=7.5 Hz, 2H), 3.34 (dq, J=6.1 and 7.3 Hz, 2H), 5.75 (s, 1H), 6.60-6.85 (m, 1H), 7.68 (s, 2H).

reactant | Potassium carbonate | 3.3 mmol, 0.46 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl isocyanate | 3.0 mmol, 0.21 g | C(C)N=C=O | C3H5NO
reactant | 3-(2,6-dichloro-4-trifluoromethylphenyloxy)-5-ethylpyrazole | 3.0 mmol, 0.98 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)OC1=NNC(=C1)CC | C12H9Cl2F3N2O
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | N-ethyl-3-(2,6-dichloro-4-trifluoromethylphenyloxy)-5-ethylpyrazole-1-carboxamide | 0.79 g, yield: 66.5% | C(C)NC(=O)N1N=C(C=C1CC)OC1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C15H14Cl2F3N3O2
